Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP with sludge extraction and sphincterotomy ___

 
History of Present Illness:
Mr. ___ is a ___ man with history of GERD, ileal 
carcinoid tumor s/p resection who presented to an outside 
hospital with abdominal pain, found to have choledocholithiasis, 
transferred to ___ for further care.

The patient reports that he developed acute onset of sharp, 
epigastric pain around 10 pm on ___. The pain was worsened by 
deep breathing. No associated nausea or vomiting. No fevers but 
endorses chills. No changes in bowels. 

He presented to the ___ for evaluation. There, he was 
found to have Tbili 3.0, AST 359, ALT 305. Imaging (RUQUS, CT 
A/P, MRCP) showed cholelithiasis, choledocholithiasis, no 
evidence of cholecystitis. He was given several doses of 
Dilaudid 1 mg IV, 1L NS, famotidine 20 mg IV. He was 
subsequently transferred to ___ for advanced endoscopy.

In the ED, vitals: 97.9 68 96/60 16 96% RA Labs: CBC wnl, Cr 
1.4; AST 369, ALT 476, Tb 3.0; lactate 0.9 Imaging: None 
Consults: ERCP Patient given: 1L LR

On arrival to the floor, the patient reports that he continues 
to have sharp epigastric abdominal pain that is worsened by 
breathing. No other acute complaints. ROS: Pertinent positives 
and negatives as noted in the HPI. All other systems were 
reviewed and are negative. 

PAST MEDICAL/SURGICAL HISTORY: 
- Carcinoid tumor s/p resection of ileum, right hemicolectomy 
(___) 
- Hypogonadism 
- GERD 
- Hypothyroidism 
- Depression 
- Anxiety 
- Insomnia 
- S/p appendectomy

SOCIAL HISTORY: ___
FAMILY HISTORY: No family history of gastrointestinal 
malignancy. Mother with lung cancer.

ADMISSION EXAM: 
VITALS: 99.1 123/72 72 18 94 RA 
GENERAL: Alert and in no apparent distress EYES: Anicteric, 
pupils equally round ENT: Ears and nose without visible 
erythema, masses, or trauma. Oropharynx without visible lesion, 
erythema or exudate CV: Heart regular, no murmur RESP: Lungs 
clear to auscultation with good air movement bilaterally. 
Breathing is non-labored GI: Abdomen soft, non-distended, tender 
to palpation in midepigastrium. Bowel sounds present. GU: No 
suprapubic fullness or tenderness to palpation MSK: Neck supple, 
moves all extremities, strength grossly full and symmetric 
bilaterally in all limbs SKIN: No rashes or ulcerations noted 
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI, speech fluent, moves all limbs, sensation to light touch 
grossly intact throughout PSYCH: Very pleasant, appropriate 
affect 
 
Past Medical History:
See HPI
 
Social History:
___
Family History:
See HPI 
 
Physical Exam:
DISCHARGE EXAM: 
==============
Temp: 98.4 PO BP: 143/90 R Lying HR: 72 RR: 18 O2 sat: 96% O2 
delivery: RA 
 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally. Breathing is non-labored
GI: Abdomen soft, non-distended, tender to palpation in
midepigastrium. Bowel sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: Very pleasant, appropriate affect
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
=======================
___ 06:27PM BLOOD WBC: 6.3 RBC: 4.93 Hgb: 14.6 Hct: 45.1
MCV: 92 MCH: 29.6 MCHC: 32.4 RDW: 12.5 RDWSD: 40.___ 
___ 06:27PM BLOOD Neuts: 66.3 Lymphs: ___ Monos: 9.2 Eos:
1.7 Baso: 0.5 Im ___: 0.3 AbsNeut: 4.20 AbsLymp: 1.39 AbsMono:
0.58 AbsEos: 0.11 AbsBaso: 0.03 
___ 06:27PM BLOOD Glucose: 83 UreaN: 10 Creat: 1.4* Na: 141
K: 4.4 Cl: 103 HCO3: 26 AnGap: 12 
___ 06:27PM BLOOD ALT: 476* AST: 369* AlkPhos: 126 TotBili:
3.0* 
___ 06:27PM BLOOD Lactate: 0.9 

MICRO:
=====
 Blood Culture, Routine (Final ___:    NO GROWTH. 

MAGING/OTHER STUDIES: 
===================
Imaging: Reviewed from ___:

- RUQUS (___):
Impression: The gallbladder is somewhat contracted, with
thickened gallbladder wall. There is an 11 mm stone in the neck
of the gallbladder and multiple additional smaller gallstones. 
No
pericholecystic fluids. No intra or extrahepatic biliary
dilatation.

- CT A/P with contrast (___): 
Impression:
- There is no acute intra-abdominal process.
- Stable postsurgical changes of ileocecectomy.
- Stable small mesenteric and retroperitoneal lymph nodes.
- Cholelithiasis

- MRCP (___): There are multiple gallstones within a somewhat
contracted gallbladder. There is no pericholecystic fluid. There
is no significan intra or extrahepatic biliary dilatation. There
are faint filling defects within the CBD consistent with
choledocholithiasis. The distal CBD is tapered. 

The liver, spleen, kidneys, adrenals, gallbladder, and pancreas
are normal. The visualized bowel is not dilated.

Impression:
- Cholelithiasis
- No pericholecystic fluid or significant biliary dilatation
- Faint filling defects within the CBD consistent with
choledocholithiasis.

LABS AT DISCHARGE: 
================

___ 09:05AM BLOOD WBC-5.0 RBC-5.27 Hgb-15.8 Hct-48.0 MCV-91 
MCH-30.0 MCHC-32.9 RDW-12.2 RDWSD-40.1 Plt ___
___ 09:05AM BLOOD Glucose-83 UreaN-9 Creat-1.4* Na-140 
K-4.6 Cl-100 HCO3-29 AnGap-11
 
Brief Hospital Course:
Mr. ___ is a ___ man with history of GERD, ileal 
carcinoid tumor s/p resection who presented to an outside 
hospital with abdominal pain, found to have choledocholithiasis, 
transferred to ___ for further care.

# Cholelithiasis: 
# Choledocholithiasis without cholecystitis or cholangitis: 
Patient presenting with abdominal pain, found to have 
transaminitis and hyperbilirubinemia, and noted on outside 
hospital imaging to have cholelithiasis and choledocholithiasis 
without clinical or radiographic evidence of superimposed 
infection.  Underwent ERCP on ___ with sphincterotomy and 
extraction of sludge. Slight bump in tbili following procedure 
but he was otherwise tolerating a full diet without evidence of 
infection. He was recommended to get repeat LFTs on outpatient 
follow up. We discussed his need for cholecystectomy and he 
preferred organizing this procedure with his outpatient surgeon 
who performed his hemicolectomy in the past. 

# Renal insufficiency: 
Unknown baseline, but patient reports history of renal injury 
due to PPI, which was subsequently discontinued. Persistently 
elevated at 1.4-1.5 throughout admission, likely representing 
baseline as patient euvolemic.  Did not change despite 
aggressive IVF therapy. 

CHRONIC/STABLE PROBLEMS: 
# GERD: - Continued ranitidine
# Hypogonadism: - to continue androgel as outpatient
# Hypothyroidism: - Continued levothyroxine
# Depression/Anxiety: - Continued bupropion - Continued 
clonazepam
# Insomnia: - Continued trazodone as needed

TRANSITIONAL ISSUES
=================
[] Recommend elective cholecystectomy

> 30 mins spent coordinating discharge 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Testosterone Gel 1% 50 mg TP DAILY 
2. Levothyroxine Sodium 125 mcg PO DAILY 
3. Ranitidine 150 mg PO BID 
4. BuPROPion XL (Once Daily) 150 mg PO DAILY 
5. ClonazePAM 0.5 mg PO BID:PRN Anxiety 
6. TraZODone 50 mg PO QHS:PRN Insomnia 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every six (6) hours 
Disp #*20 Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
3.  ClonazePAM 0.5 mg PO BID:PRN Anxiety  
4.  Levothyroxine Sodium 125 mcg PO DAILY  
5.  Ranitidine 150 mg PO BID  
6.  Testosterone Gel 1% 50 mg TP DAILY  
7.  TraZODone 50 mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# cholelithiasis: 
# choledocholithiasis:

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege to care for you at the ___. You were 
admitted with abdominal pain due to gallstones. You underwent a 
procedure called ERCP to remove the blockage in your common 
biliary duct. You will eventually need your gallbladder removed, 
but this can be arranged with your outpatient surgeon. 

Please continue to take all medications as prescribed and follow 
up with all appointments detailed below. 

We wish you the best!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___